US06310095B1
To a solution of (R)-(−)-thiazolidine-4-carboxylic acid (1.0 g, 7.5 mmol) in aqueous 1N NaOH (9 mL) and THF (9 mL) was added a solution of di-tert-butyldicarbonate (1.62 g, 7.4 mmol) in THF (9 mL). An additional 2 mL of aqueous NaOH was added and the reaction mixture was stirred overnight at ambient temperature. Additional aqueous NaOH was added to make a clear solution and the reaction mixture was washed with hexanes (3×). The hexane extracts were washed twice with saturated aqueous NaHCO3. The combined aqueous layers were acidified to pH 2 with 1.1 M NaHSO4 and extracted twice with ether. The combined ether layers were dried over Na2SO4, filtered, and concentrated in vacuo to give N-tert-butoxycarbonyl-(R)-(−)thiazolidine-4-carboxylic acid (1.3 g) which was used without further purification.

reactant | (R)-(−)-thiazolidine-4-carboxylic acid | 7.5 mmol, 1.0 g | S1CN[C@@H](C1)C(=O)O | C4H7NO2S
reactant | di-tert-butyldicarbonate | 7.4 mmol, 1.62 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | NaOH | 1N, 9 mL | [OH-].[Na+]
solvent | THF | 9 mL | C1CCOC1 | C4H8O
solvent | THF | 9 mL | C1CCOC1 | C4H8O
solvent | NaOH | 2 mL | [OH-].[Na+]
product | N-tert-butoxycarbonyl-(R)-(−)thiazolidine-4-carboxylic acid | 1.3 g | C(C)(C)(C)OC(=O)N1CSC[C@H]1C(=O)O | C9H15NO4S
